US04153611
Preparation of 1-methyl-3-(5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-yl)urea.
Stoichiometric quantities of 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thiophen-4-amine hydrochloride, methyl isocyanate, and triethylamine are allowed to react in dry methylene chloride to afford the title compound.

reactant | 5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thiophen-4-amine hydrochloride | Cl.O=C1CCCC(C2=C1SC=C2)N
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-(5,6,7,8-tetrahydro-8-oxo-4H-cyclohepta[b]thien-4-yl)urea | CNC(=O)NC1CCCC(C=2SC=CC21)=O | C11H14N2O2S
